* sparx_bpf_le - lumped-element equivalent (Ngspice / SPICE3)
* generated by snp2le
* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
* 
* 
.SUBCKT sparx_bpf_le p1 p2
V1 p1 s1 0
R1 s1 0 50
Gd1_1 0 s1 p1 0 -0.01120381339
Fd1_1 0 s1 V1 -0.5601906694
Gr1_re_1_1 0 s1 x1_re_a1 0 290579.4455
Gr1_im_1_1 0 s1 x1_im_a1 0 1335343.529
Gr2_1_1 0 s1 x2_a1 0 1.583523892
Gr3_re_1_1 0 s1 x3_re_a1 0 989488.3877
Gr3_im_1_1 0 s1 x3_im_a1 0 277279.7385
Gr4_re_1_1 0 s1 x4_re_a1 0 150818.2982
Gr4_im_1_1 0 s1 x4_im_a1 0 373285.2164
Gr5_re_1_1 0 s1 x5_re_a1 0 330404.0006
Gr5_im_1_1 0 s1 x5_im_a1 0 -71704.2854
Gr6_re_1_1 0 s1 x6_re_a1 0 422622.1312
Gr6_im_1_1 0 s1 x6_im_a1 0 -157771.2888
Gr7_re_1_1 0 s1 x7_re_a1 0 310853.0957
Gr7_im_1_1 0 s1 x7_im_a1 0 -291542.7187
Gd1_2 0 s1 p2 0 3.916233564e-05
Fd1_2 0 s1 V2 0.001958116782
Gr1_re_1_2 0 s1 x1_re_a2 0 -3117.241202
Gr1_im_1_2 0 s1 x1_im_a2 0 -3676.774031
Gr2_1_2 0 s1 x2_a2 0 -0.001801258496
Gr3_re_1_2 0 s1 x3_re_a2 0 33890.43241
Gr3_im_1_2 0 s1 x3_im_a2 0 43871.55334
Gr4_re_1_2 0 s1 x4_re_a2 0 -59965.29332
Gr4_im_1_2 0 s1 x4_im_a2 0 -192127.6114
Gr5_re_1_2 0 s1 x5_re_a2 0 -325859.232
Gr5_im_1_2 0 s1 x5_im_a2 0 98459.6419
Gr6_re_1_2 0 s1 x6_re_a2 0 413392.5215
Gr6_im_1_2 0 s1 x6_im_a2 0 -177719.0406
Gr7_re_1_2 0 s1 x7_re_a2 0 -294051.4217
Gr7_im_1_2 0 s1 x7_im_a2 0 312750.6751
Cx1_re_a1 x1_re_a1 0 1.011026292e-12
Gx1_re_a1 0 x1_re_a1 p1 0 3.995088897e-08
Fx1_re_a1 0 x1_re_a1 V1 1.997544449e-06
Rp1_re_re_a1 0 x1_re_a1 1
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 2.229358686
Cx1_im_a1 x1_im_a1 0 1.011026292e-12
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -2.229358686
Rp1_im_im_a1 0 x1_im_a1 1
Cx2_a1 x2_a1 0 2.498103991e-12
Gx2_a1 0 x2_a1 p1 0 0.03167047785
Fx2_a1 0 x2_a1 V1 1.583523892
Rp2_a1 0 x2_a1 1
Cx3_re_a1 x3_re_a1 0 9.90661833e-12
Gx3_re_a1 0 x3_re_a1 p1 0 6.312092987e-08
Fx3_re_a1 0 x3_re_a1 V1 3.156046493e-06
Rp3_re_re_a1 0 x3_re_a1 1
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 11.62603055
Cx3_im_a1 x3_im_a1 0 9.90661833e-12
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -11.62603055
Rp3_im_im_a1 0 x3_im_a1 1
Cx4_re_a1 x4_re_a1 0 1.3242206e-11
Gx4_re_a1 0 x4_re_a1 p1 0 2.867586146e-08
Fx4_re_a1 0 x4_re_a1 V1 1.433793073e-06
Rp4_re_re_a1 0 x4_re_a1 1
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 15.49552436
Cx4_im_a1 x4_im_a1 0 1.3242206e-11
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -15.49552436
Rp4_im_im_a1 0 x4_im_a1 1
Cx5_re_a1 x5_re_a1 0 3.909726983e-11
Gx5_re_a1 0 x5_re_a1 p1 0 2.761554431e-08
Fx5_re_a1 0 x5_re_a1 V1 1.380777215e-06
Rp5_re_re_a1 0 x5_re_a1 1
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 36.199612
Cx5_im_a1 x5_im_a1 0 3.909726983e-11
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -36.199612
Rp5_im_im_a1 0 x5_im_a1 1
Cx6_re_a1 x6_re_a1 0 2.767920714e-11
Gx6_re_a1 0 x6_re_a1 p1 0 3.960261225e-08
Fx6_re_a1 0 x6_re_a1 V1 1.980130613e-06
Rp6_re_re_a1 0 x6_re_a1 1
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 27.40679662
Cx6_im_a1 x6_im_a1 0 2.767920714e-11
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -27.40679662
Rp6_im_im_a1 0 x6_im_a1 1
Cx7_re_a1 x7_re_a1 0 2.769924502e-11
Gx7_re_a1 0 x7_re_a1 p1 0 4.111162116e-08
Fx7_re_a1 0 x7_re_a1 V1 2.055581058e-06
Rp7_re_re_a1 0 x7_re_a1 1
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 29.60734368
Cx7_im_a1 x7_im_a1 0 2.769924502e-11
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -29.60734368
Rp7_im_im_a1 0 x7_im_a1 1
V2 p2 s2 0
R2 s2 0 50
Gd2_1 0 s2 p1 0 3.916233566e-05
Fd2_1 0 s2 V1 0.001958116783
Gr1_re_2_1 0 s2 x1_re_a1 0 -3885.610214
Gr1_im_2_1 0 s2 x1_im_a1 0 -4583.062329
Gr2_2_1 0 s2 x2_a1 0 -0.001834708033
Gr3_re_2_1 0 s2 x3_re_a1 0 27486.12857
Gr3_im_2_1 0 s2 x3_im_a1 0 35581.10859
Gr4_re_2_1 0 s2 x4_re_a1 0 -68833.44055
Gr4_im_2_1 0 s2 x4_im_a1 0 -220540.9794
Gr5_re_2_1 0 s2 x5_re_a1 0 -327430.1509
Gr5_im_2_1 0 s2 x5_im_a1 0 98934.30121
Gr6_re_2_1 0 s2 x6_re_a1 0 422890.3693
Gr6_im_2_1 0 s2 x6_im_a1 0 -181802.202
Gr7_re_2_1 0 s2 x7_re_a1 0 -292033.0922
Gr7_im_2_1 0 s2 x7_im_a1 0 310603.9964
Gd2_2 0 s2 p2 0 -0.01166096415
Fd2_2 0 s2 V2 -0.5830482076
Gr1_re_2_2 0 s2 x1_re_a2 0 464969.5169
Gr1_im_2_2 0 s2 x1_im_a2 0 1296615.066
Gr2_2_2 0 s2 x2_a2 0 1.612930078
Gr3_re_2_2 0 s2 x3_re_a2 0 1475119.8
Gr3_im_2_2 0 s2 x3_im_a2 0 122341.6891
Gr4_re_2_2 0 s2 x4_re_a2 0 -158677.2285
Gr4_im_2_2 0 s2 x4_im_a2 0 467497.4547
Gr5_re_2_2 0 s2 x5_re_a2 0 320012.0667
Gr5_im_2_2 0 s2 x5_im_a2 0 -101283.6714
Gr6_re_2_2 0 s2 x6_re_a2 0 390539.9802
Gr6_im_2_2 0 s2 x6_im_a2 0 -194623.2304
Gr7_re_2_2 0 s2 x7_re_a2 0 269922.1503
Gr7_im_2_2 0 s2 x7_im_a2 0 -323859.4094
Cx1_re_a2 x1_re_a2 0 1.011026292e-12
Gx1_re_a2 0 x1_re_a2 p2 0 4.979838651e-08
Fx1_re_a2 0 x1_re_a2 V2 2.489919326e-06
Rp1_re_re_a2 0 x1_re_a2 1
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 2.229358686
Cx1_im_a2 x1_im_a2 0 1.011026292e-12
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -2.229358686
Rp1_im_im_a2 0 x1_im_a2 1
Cx2_a2 x2_a2 0 2.498103991e-12
Gx2_a2 0 x2_a2 p2 0 0.03225860155
Fx2_a2 0 x2_a2 V2 1.612930078
Rp2_a2 0 x2_a2 1
Cx3_re_a2 x3_re_a2 0 9.90661833e-12
Gx3_re_a2 0 x3_re_a2 p2 0 5.119291406e-08
Fx3_re_a2 0 x3_re_a2 V2 2.559645703e-06
Rp3_re_re_a2 0 x3_re_a2 1
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 11.62603055
Cx3_im_a2 x3_im_a2 0 9.90661833e-12
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -11.62603055
Rp3_im_im_a2 0 x3_im_a2 1
Cx4_re_a2 x4_re_a2 0 1.3242206e-11
Gx4_re_a2 0 x4_re_a2 p2 0 3.291667723e-08
Fx4_re_a2 0 x4_re_a2 V2 1.645833862e-06
Rp4_re_re_a2 0 x4_re_a2 1
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 15.49552436
Cx4_im_a2 x4_im_a2 0 1.3242206e-11
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -15.49552436
Rp4_im_im_a2 0 x4_im_a2 1
Cx5_re_a2 x5_re_a2 0 3.909726983e-11
Gx5_re_a2 0 x5_re_a2 p2 0 2.774867475e-08
Fx5_re_a2 0 x5_re_a2 V2 1.387433737e-06
Rp5_re_re_a2 0 x5_re_a2 1
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 36.199612
Cx5_im_a2 x5_im_a2 0 3.909726983e-11
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -36.199612
Rp5_im_im_a2 0 x5_im_a2 1
Cx6_re_a2 x6_re_a2 0 2.767920714e-11
Gx6_re_a2 0 x6_re_a2 p2 0 4.051249709e-08
Fx6_re_a2 0 x6_re_a2 V2 2.025624854e-06
Rp6_re_re_a2 0 x6_re_a2 1
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 27.40679662
Cx6_im_a2 x6_im_a2 0 2.767920714e-11
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -27.40679662
Rp6_im_im_a2 0 x6_im_a2 1
Cx7_re_a2 x7_re_a2 0 2.769924502e-11
Gx7_re_a2 0 x7_re_a2 p2 0 4.082943651e-08
Fx7_re_a2 0 x7_re_a2 V2 2.041471825e-06
Rp7_re_re_a2 0 x7_re_a2 1
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 29.60734368
Cx7_im_a2 x7_im_a2 0 2.769924502e-11
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -29.60734368
Rp7_im_im_a2 0 x7_im_a2 1
.ENDS sparx_bpf_le
