* sparx_bpf_le - lumped-element equivalent (Ngspice / SPICE3)
* generated by snp2le
* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
* 
* 
.SUBCKT sparx_bpf_le p1 p2
V1 p1 s1 0
R1 s1 0 50
Gd1_1 0 s1 p1 0 -0.01123559521
Fd1_1 0 s1 V1 -0.5617797607
Gr1_re_1_1 0 s1 x1_re_a1 0 294187.2919
Gr1_im_1_1 0 s1 x1_im_a1 0 1332079.367
Gr2_1_1 0 s1 x2_a1 0 1.583874492
Gr3_re_1_1 0 s1 x3_re_a1 0 972466.024
Gr3_im_1_1 0 s1 x3_im_a1 0 283897.8111
Gr4_re_1_1 0 s1 x4_re_a1 0 181791.1479
Gr4_im_1_1 0 s1 x4_im_a1 0 337703.5839
Gr5_re_1_1 0 s1 x5_re_a1 0 331356.7462
Gr5_im_1_1 0 s1 x5_im_a1 0 -72053.71734
Gr6_re_1_1 0 s1 x6_re_a1 0 423474.066
Gr6_im_1_1 0 s1 x6_im_a1 0 -157964.1519
Gr7_re_1_1 0 s1 x7_re_a1 0 310487.7537
Gr7_im_1_1 0 s1 x7_im_a1 0 -291835.1016
Gd1_2 0 s1 p2 0 3.437936762e-05
Fd1_2 0 s1 V2 0.001718968381
Gr1_re_1_2 0 s1 x1_re_a2 0 -2773.536423
Gr1_im_1_2 0 s1 x1_im_a2 0 -3618.309664
Gr2_1_2 0 s1 x2_a2 0 -0.001757050875
Gr3_re_1_2 0 s1 x3_re_a2 0 39402.5321
Gr3_im_1_2 0 s1 x3_im_a2 0 41850.34051
Gr4_re_1_2 0 s1 x4_re_a2 0 -73174.53515
Gr4_im_1_2 0 s1 x4_im_a2 0 -196263.6491
Gr5_re_1_2 0 s1 x5_re_a2 0 -326206.8384
Gr5_im_1_2 0 s1 x5_im_a2 0 98602.34178
Gr6_re_1_2 0 s1 x6_re_a2 0 413464.3293
Gr6_im_1_2 0 s1 x6_im_a2 0 -177397.7616
Gr7_re_1_2 0 s1 x7_re_a2 0 -293948.489
Gr7_im_1_2 0 s1 x7_im_a2 0 312865.9029
Cx1_re_a1 x1_re_a1 0 1.011231742e-12
Gx1_re_a1 0 x1_re_a1 p1 0 4.011053639e-08
Fx1_re_a1 0 x1_re_a1 V1 2.005526819e-06
Rp1_re_re_a1 0 x1_re_a1 1
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 2.231948794
Cx1_im_a1 x1_im_a1 0 1.011231742e-12
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -2.231948794
Rp1_im_im_a1 0 x1_im_a1 1
Cx2_a1 x2_a1 0 2.496531646e-12
Gx2_a1 0 x2_a1 p1 0 0.03167748983
Fx2_a1 0 x2_a1 V1 1.583874492
Rp2_a1 0 x2_a1 1
Cx3_re_a1 x3_re_a1 0 9.892503139e-12
Gx3_re_a1 0 x3_re_a1 p1 0 6.331783401e-08
Fx3_re_a1 0 x3_re_a1 V1 3.165891701e-06
Rp3_re_re_a1 0 x3_re_a1 1
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 11.6094965
Cx3_im_a1 x3_im_a1 0 9.892503139e-12
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -11.6094965
Rp3_im_im_a1 0 x3_im_a1 1
Cx4_re_a1 x4_re_a1 0 1.324295631e-11
Gx4_re_a1 0 x4_re_a1 p1 0 2.992452649e-08
Fx4_re_a1 0 x4_re_a1 V1 1.496226325e-06
Rp4_re_re_a1 0 x4_re_a1 1
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 15.50696682
Cx4_im_a1 x4_im_a1 0 1.324295631e-11
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -15.50696682
Rp4_im_im_a1 0 x4_im_a1 1
Cx5_re_a1 x5_re_a1 0 3.907770821e-11
Gx5_re_a1 0 x5_re_a1 p1 0 2.764806615e-08
Fx5_re_a1 0 x5_re_a1 V1 1.382403307e-06
Rp5_re_re_a1 0 x5_re_a1 1
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 36.18014109
Cx5_im_a1 x5_im_a1 0 3.907770821e-11
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -36.18014109
Rp5_im_im_a1 0 x5_im_a1 1
Cx6_re_a1 x6_re_a1 0 2.768288253e-11
Gx6_re_a1 0 x6_re_a1 p1 0 3.959049119e-08
Fx6_re_a1 0 x6_re_a1 V1 1.979524559e-06
Rp6_re_re_a1 0 x6_re_a1 1
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 27.40707304
Cx6_im_a1 x6_im_a1 0 2.768288253e-11
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -27.40707304
Rp6_im_im_a1 0 x6_im_a1 1
Cx7_re_a1 x7_re_a1 0 2.769934271e-11
Gx7_re_a1 0 x7_re_a1 p1 0 4.109832381e-08
Fx7_re_a1 0 x7_re_a1 V1 2.05491619e-06
Rp7_re_re_a1 0 x7_re_a1 1
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 29.60558569
Cx7_im_a1 x7_im_a1 0 2.769934271e-11
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -29.60558569
Rp7_im_im_a1 0 x7_im_a1 1
V2 p2 s2 0
R2 s2 0 50
Gd2_1 0 s2 p1 0 3.437936762e-05
Fd2_1 0 s2 V1 0.001718968381
Gr1_re_2_1 0 s2 x1_re_a1 0 -3453.066855
Gr1_im_2_1 0 s2 x1_im_a1 0 -4504.813806
Gr2_2_1 0 s2 x2_a1 0 -0.001789639013
Gr3_re_2_1 0 s2 x3_re_a1 0 31347.80911
Gr3_im_2_1 0 s2 x3_im_a1 0 33295.23296
Gr4_re_2_1 0 s2 x4_re_a1 0 -76963.90472
Gr4_im_2_1 0 s2 x4_im_a1 0 -206427.2326
Gr5_re_2_1 0 s2 x5_re_a1 0 -327108.5376
Gr5_im_2_1 0 s2 x5_im_a1 0 98874.89784
Gr6_re_2_1 0 s2 x6_re_a1 0 422783.0545
Gr6_im_2_1 0 s2 x6_im_a1 0 -181395.9807
Gr7_re_2_1 0 s2 x7_re_a1 0 -291941.0276
Gr7_im_2_1 0 s2 x7_im_a1 0 310729.2489
Gd2_2 0 s2 p2 0 -0.0117160807
Fd2_2 0 s2 V2 -0.585804035
Gr1_re_2_2 0 s2 x1_re_a2 0 469293.4554
Gr1_im_2_2 0 s2 x1_im_a2 0 1294350.032
Gr2_2_2 0 s2 x2_a2 0 1.613250716
Gr3_re_2_2 0 s2 x3_re_a2 0 1482931.425
Gr3_im_2_2 0 s2 x3_im_a2 0 117836.9618
Gr4_re_2_2 0 s2 x4_re_a2 0 -135519.4172
Gr4_im_2_2 0 s2 x4_im_a2 0 501142.3654
Gr5_re_2_2 0 s2 x5_re_a2 0 319174.1654
Gr5_im_2_2 0 s2 x5_im_a2 0 -100991.8762
Gr6_re_2_2 0 s2 x6_re_a2 0 389881.116
Gr6_im_2_2 0 s2 x6_im_a2 0 -194256.4643
Gr7_re_2_2 0 s2 x7_re_a2 0 269933.8943
Gr7_im_2_2 0 s2 x7_im_a2 0 -323745.0815
Cx1_re_a2 x1_re_a2 0 1.011231742e-12
Gx1_re_a2 0 x1_re_a2 p2 0 4.993782039e-08
Fx1_re_a2 0 x1_re_a2 V2 2.496891019e-06
Rp1_re_re_a2 0 x1_re_a2 1
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 2.231948794
Cx1_im_a2 x1_im_a2 0 1.011231742e-12
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -2.231948794
Rp1_im_im_a2 0 x1_im_a2 1
Cx2_a2 x2_a2 0 2.496531646e-12
Gx2_a2 0 x2_a2 p2 0 0.03226501432
Fx2_a2 0 x2_a2 V2 1.613250716
Rp2_a2 0 x2_a2 1
Cx3_re_a2 x3_re_a2 0 9.892503139e-12
Gx3_re_a2 0 x3_re_a2 p2 0 5.037431019e-08
Fx3_re_a2 0 x3_re_a2 V2 2.518715509e-06
Rp3_re_re_a2 0 x3_re_a2 1
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 11.6094965
Cx3_im_a2 x3_im_a2 0 9.892503139e-12
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -11.6094965
Rp3_im_im_a2 0 x3_im_a2 1
Cx4_re_a2 x4_re_a2 0 1.324295631e-11
Gx4_re_a2 0 x4_re_a2 p2 0 3.147417884e-08
Fx4_re_a2 0 x4_re_a2 V2 1.573708942e-06
Rp4_re_re_a2 0 x4_re_a2 1
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 15.50696682
Cx4_im_a2 x4_im_a2 0 1.324295631e-11
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -15.50696682
Rp4_im_im_a2 0 x4_im_a2 1
Cx5_re_a2 x5_re_a2 0 3.907770821e-11
Gx5_re_a2 0 x5_re_a2 p2 0 2.772449078e-08
Fx5_re_a2 0 x5_re_a2 V2 1.386224539e-06
Rp5_re_re_a2 0 x5_re_a2 1
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 36.18014109
Cx5_im_a2 x5_im_a2 0 3.907770821e-11
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -36.18014109
Rp5_im_im_a2 0 x5_im_a2 1
Cx6_re_a2 x6_re_a2 0 2.768288253e-11
Gx6_re_a2 0 x6_re_a2 p2 0 4.048278802e-08
Fx6_re_a2 0 x6_re_a2 V2 2.024139401e-06
Rp6_re_re_a2 0 x6_re_a2 1
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 27.40707304
Cx6_im_a2 x6_im_a2 0 2.768288253e-11
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -27.40707304
Rp6_im_im_a2 0 x6_im_a2 1
Cx7_re_a2 x7_re_a2 0 2.769934271e-11
Gx7_re_a2 0 x7_re_a2 p2 0 4.081765117e-08
Fx7_re_a2 0 x7_re_a2 V2 2.040882558e-06
Rp7_re_re_a2 0 x7_re_a2 1
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 29.60558569
Cx7_im_a2 x7_im_a2 0 2.769934271e-11
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -29.60558569
Rp7_im_im_a2 0 x7_im_a2 1
.ENDS sparx_bpf_le
